US09163012B2
Step 1: adamantane-1,4-diol
Sodium borohydride (3.00 g) is added in three equal portions to a solution of 5-hydroxy-adamantan-2-one (5.00 g) in methanol (100 mL) chilled in an ice bath. The mixture is stirred in the cooling bath for 1 h and at room temperature overnight. 1 M hydrochloric acid is added and the resulting mixture is stirred for 0.5 h. The mixture is concentrated, water is then added to the residue, and the resulting mixture is extracted with ethyl acetate. The combined extract is washed with brine, dried (MgSO4), and concentrated to give the title compound as a mixture of diastereomers (ca. 1:1). Yield: 3.20 g (63% of theory); Mass spectrum (ESI+): m/z=186 [M+NH4]+.

reactant | Sodium borohydride | 3.00 g | [BH4-].[Na+]
reactant | 5-hydroxy-adamantan-2-one | 5.00 g | OC12CC3C(C(CC(C1)C3)C2)=O | C10H14O2
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
product | adamantane-1,4-diol | C12(CC3C(C(CC(C1)C3)C2)O)O | C10H16O2
